US04721721
The Preparation of 5-(2-Aminothiazol-4-yl)Oxindole
A solution of 5-(α-bromoacetyl)oxindole (5 g) and thiourea (1.67 g) in absolute EtOH (250 ml) is refluxed for 30 minutes. The reaction mixture is cooled to RT, filtered, and washed with absolute EtOH affording the desired product. The free base is converted to its methanesulfonate salt by the procedure previously described in Example 12, affording the desired product, M.P.=244°-246° C.

reactant | 5-(α-bromoacetyl)oxindole | 5 g | BrCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8BrNO2
reactant | thiourea | 1.67 g | NC(=S)N | CH4N2S
solvent | EtOH | 250 ml | CCO | C2H6O
product | 5-(2-Aminothiazol-4-yl)Oxindole | NC=1SC=C(N1)C=1C=C2CC(NC2=CC1)=O | C11H9N3OS
